US05644053
(c) (E)-(2S,3S,5R)-3-methyl-3-[2-(1,2,4-oxadiazol-3-yl)- vinyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo [3.2.0]heptane-2-carboxylic acid
355 mg (0.74 mmol) of benzhydryl (E)-(2S,3S,5R)-3-methyl-3-[2-(1,2,4-oxadiazol-3-yl)-vinyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate were dissolved in 3 ml of m-cresol and stirred at 50° C. for 4 hours. 20 ml of n-hexane are added to the pale brown solution, the separated crystals were filtered off under suction and rinsed with n-hexane. The crude crystallizate was recrystallized from ethyl acetate/n-hexane. Yield: 170 mg (73%) of colorless crystals MS: (M--H)- 312.2 IR (KBr): 2900(br), 1811, 1714, 1660, 1331, 1194, 980 cm-1M.p.: 161° C. (dec.) Elementary analysis: C11H11N3O6S (313.284) Calc. C 42.17 H 3.54 N 13.41 Found C 42.41 H 3.64 N 13.18

reactant | benzhydryl (E)-(2S,3S,5R)-3-methyl-3-[2-(1,2,4-oxadiazol-3-yl)-vinyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo[3.2.0]heptane-2-carboxylate | 0.74 mmol, 355 mg | C[C@@]1([C@@H](N2C(C[C@H]2S1(=O)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=NOC=N1 | C24H21N3O6S
reactant | n-hexane | 20 ml | CCCCCC | C6H14
solvent | m-cresol | 3 ml | C1=C(C=CC=C1O)C | C7H8O
product | (E)-(2S,3S,5R)-3-methyl-3-[2-(1,2,4-oxadiazol-3-yl)- vinyl]-4,4,7-trioxo-4-thia-1-aza-bicyclo [3.2.0]heptane-2-carboxylic acid | C[C@@]1([C@@H](N2C(C[C@H]2S1(=O)=O)=O)C(=O)O)\C=C\C1=NOC=N1 | C11H11N3O6S
